US09428528B2
Step 4 Preparation of 2,2-Difluoro-N-((1S,2R)-1-fluoromethyl-2-hydroxy-2-{4-[2-(methanesulfonylamino-methyl)-benzothiazol-5-yl]-phenyl}-ethyl)-acetamide
To a stirred solution of N-(5-Bromo-benzothiazol-2-ylmethyl) methane sulfonamide (0.21 g, 0.656 mmol) and 2,2-Difluoro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-trimethylstannanyl-phenyl)-ethyl]-acetamide (0.404 g, 0.984 mmol) in N-Methyl-2-pyrrolidone (9 mL) is added lithium chloride (0.084 g, 1.968 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 15 minutes then Pd(PPh3)2Cl2 (0.046 g, 0.065 mmol) is added. The reaction mixture heated to 90° C. for 16 hours. Reaction mixture is cooled to room temperature, diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulfate, solvent is evaporated in vacuo to give the crude material purified by flash column chromatography using 2.4% methanol in CH2Cl2 as an eluent to give impure compound. The impure compound is again purified by prep-HPLC to give the title compound (5 mg). 1HNMR (400 MHz, DMSO) δ: 3.04 (s, 3H), 4.26-4.33 (m, 1H), 4.41-4.43 (m, 0.5H), 4.44-4.50 (m, 0.5H), 4.62 (s, 2H), 4.65-4.68 (m, 0.5H), 4.75-4.79 (m, 0.5H), 4.87-4.88 (m, 1H), 5.9 (d, J=4.56 Hz, 1H), 6.20 (d, J=56.36 Hz, 1H), 7.45 (d, J=8.24 Hz, 2H), 7.63, (d, J=8.16 Hz, 1H), 7.73 (d, J=8.28 Hz, 2H). 7.81 (d, J1=1.8 Hz, J2=8.52 Hz, 1H), 8.42 (d, J=1.6 Hz, 1H), 8.82-8.83 (m, 2H). LC-Ms (m/z): [M−H]=485.8.

reactant | N-(5-Bromo-benzothiazol-2-ylmethyl) methane sulfonamide | 0.656 mmol, 0.21 g | BrC=1C=CC2=C(N=C(S2)CNS(=O)(=O)C)C1 | C9H9BrN2O2S2
reactant | 2,2-Difluoro-N-[(1S,2R)-1-fluoromethyl-2-hydroxy-2-(4-trimethylstannanyl-phenyl)-ethyl]-acetamide | 0.984 mmol, 0.404 g | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)F
reactant | lithium chloride | 1.968 mmol, 0.084 g | [Cl-].[Li+]
solvent | N-Methyl-2-pyrrolidone | 9 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.065 mmol, 0.046 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2,2-Difluoro-N-((1S,2R)-1-fluoromethyl-2-hydroxy-2-{4-[2-(methanesulfonylamino-methyl)-benzothiazol-5-yl]-phenyl}-ethyl)-acetamide | 5 mg | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=CC2=C(N=C(S2)CNS(=O)(=O)C)C1)O)CF)F | C20H20F3N3O4S2
